US07626046B2
Preparation of Starting Material Phytyltrimethylhydroquinone
A mixture of trimethylhydroquinone (15.5 g, 100 mmol), propylene carbonate (100 ml) and heptane (100 ml) was heated to 140° C. (bath temperature) in a three-necked reaction flask equipped with a water separator, a reflux condenser and argon gasification means. Trifluoroacetic acid (0.5 ml, 6.52 mmol) was then added dropwise using a syringe to the biphasic reaction mixture at reflux temperature, followed by isophytol (35.99 ml, 100 mmol) to the resulting solution over a period of 30 minutes at 140° C. (internal temperature 100° C.). After stirring for a further 10 minutes at 140° C., water and heptane were distilled off from the reaction mixture. The produced phytyltrimethylhydroquinone was extracted with three 50 ml portions of heptane from the carbonate phase, and the combined heptane phase was cooled down to room temperature. The resulting yellowish suspension was filtered through a P4 frit (requiring 2-3 days) and washed with 100 ml of cold propylene carbonate (4° C.) and 500 ml of cold heptane (4° C.) to remove traces of trimethylhydroquinone and by-products. The white waxy residue was dried for 3 hours under high vacuum. The so produced phytyltrimethylhydroquinone was found to have a purity of about 95%.

reactant | trimethylhydroquinone | 100 mmol, 15.5 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | propylene carbonate | 100 ml | C1(OCC(C)O1)=O | C4H6O3
reactant | Trifluoroacetic acid | 6.52 mmol, 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | isophytol | 100 mmol, 35.99 ml | CC(C)CCCC(C)CCCC(C)CCCC(C)(C=C)O | C20H40O
solvent | water | O | H2O
solvent | heptane | 100 ml | CCCCCCC | C7H16
product | Phytyltrimethylhydroquinone | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C1=C(C(=C(C(=C1O)C)C)O)C | C29H50O2
